US04996230
K. Preparation of 7-ethoxycarbonyl-3-decyloxy-9-oxo-9H-fluorene-2-proponoic acid
A solution of 170 mg of 2-(3-hydroxypropyl)-3-decyloxy-7-ethoxycarbonyl-9-oxo-9H-fluorene in diethyl ether were treated with 0.75 ml of Jones reagent (chromic acid solution). The reaction mixture was stirred overnight, poured into water and the layer separated. The organic layer was washed with water, dried over magnesium sulfate, filtered, and concentrated in vacuo providing 90 mg of material which was taken directly to hydrolysis. NMR.

reactant | 2-(3-hydroxypropyl)-3-decyloxy-7-ethoxycarbonyl-9-oxo-9H-fluorene | 170 mg | OCCCC1=CC=2C(C3=CC(=CC=C3C2C=C1OCCCCCCCCCC)C(=O)OCC)=O | C29H38O5
reactant | Jones reagent | 0.75 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 7-ethoxycarbonyl-3-decyloxy-9-oxo-9H-fluorene-2-proponoic acid | 90 mg | C(C)OC(=O)C1=CC=C2C=3C=C(C(=CC3C(C2=C1)=O)CCC(=O)O)OCCCCCCCCCC | C29H36O6
